US07151105B2
Step 2: 5-Ethoxy-2-ethyl-phenol
1-(4-Ethoxy-2-hydroxy-phenyl)-ethanone was dissolved in MeOH (40 mL), treated with 10 wt % Pd/C (1.4 g, Degussa type) and stirred under a balloon of H2 for 24 hours. The reaction mixture was filtered through a pad of celite washing with EtOAc. The filtrate was concentrated to give the product as an oil (3.12 g, 97%). 1H NMR (400 MHz, CDCl3): δ 1.21 (t, J=7.6 Hz, 3 H), 1.39 (t, J=7.1 Hz, 3 H), 2.56 (d, J=7.6 Hz, 2 H), 3.98 (d, J=7.1 Hz, 2 H), 4.79 (s, 1 H), 6.37 (d, J=2.5 Hz, 1 H), 6.44 (dd, J=8.3, 2.5 Hz, 1 H), 7.01 (d, J=8.3 Hz, 1 H).

reactant | 1-(4-Ethoxy-2-hydroxy-phenyl)-ethanone | C(C)OC1=CC(=C(C=C1)C(C)=O)O | C10H12O3
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | 5-Ethoxy-2-ethyl-phenol | 3.12 g, 97% | C(C)OC=1C=CC(=C(C1)O)CC | C10H14O2
